US07666879B2
A. 4-(3-tert-Butyl-5-iodo-benzyl)-morpholine
Dissolve 1-tert-butyl-3-iodo-5-methyl-benzene (1 g, 3.6 mmol, prepared according to Chem. Soc. Perkin Trans. I, 1987, page 859-866) in carbon tetrachloride (20 mL) under nitrogen. Add NBS (0.71 g, 1.1 equiv.) followed by AIBN (0.06 g, 0.1 equiv.) and heat overnight at 70° C. Filter in the morning, washing with hexanes. Concentrate filtrate and use crude. Dissolve this residue in THF (10 mL) under nitrogen and cool to 0° C. Add morpholine (0.64 mL, 2 equiv.) dropwise via syringe and stir 5 minutes with cooling. Remove ice bath and let warm to room temperature. After one hour concentrate to dryness and purify the residue on silica gel (Hexanes→4:1 Hexanes Ethyl Acetate) to give product (0.785 g, 60% over 2 steps). MS (ES), m/z 360.1 (M+1).

reactant | 1-tert-butyl-3-iodo-5-methyl-benzene | 3.6 mmol, 1 g | C(C)(C)(C)C1=CC(=CC(=C1)C)I | C11H15I
reactant | NBS | 0.71 g, 1.1 equiv. | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | AIBN | 0.06 g, 0.1 equiv. | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
reactant | morpholine | 0.64 mL, 2 equiv. | N1CCOCC1 | C4H9NO
solvent | carbon tetrachloride | 20 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 4-(3-tert-Butyl-5-iodo-benzyl)-morpholine | C(C)(C)(C)C=1C=C(CN2CCOCC2)C=C(C1)I | C15H22INO
